US05185330
In a mixed solvent consisting of 15 ml of methanol, 6 ml of tetrahydrofuran, 1.5 ml of water and 6 ml of methylene chloride was dissolved 740 mg of (3R,5R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-(3,5-di-tert-butyl-4-hydroxybenzylideneamino)-6-methoxy-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane. Thereto was added 240 mg of a Girard reagent (2-hydrazino-N,N,N-trimethyl-2-oxoethanaminium chloride). The mixture was stirred at room temperature for 1 hour. To the reaction mixture were added 30 ml of methylene chloride and 10 ml of water. The resulting mixture was adjusted to pH 7.0 with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: benzene/ethyl acetate=5/1 to 1/1) to obtain 320 mg (yield: 60.6%) of (3R,5R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-methoxy-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane.

reactant | methanol | 15 ml | CO | CH4O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | (3R,5R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-(3,5-di-tert-butyl-4-hydroxybenzylideneamino)-6-methoxy-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 740 mg | C(C1=CC=CC=C1)=NN1C(N(CC1)[C@@]1(CN2C(C([C@H]2S1)(OC)N=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C39H44N6O8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | 2-hydrazino-N,N,N-trimethyl-2-oxoethanaminium chloride | [Cl-].N(N)C(C[N+](C)(C)C)=O
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1.5 ml | O | H2O
product | (3R,5R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-6-methoxy-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 320 mg, yield: 60.6% | NC1([C@H]2S[C@](CN2C1=O)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(N(CC1)N=CC1=CC=CC=C1)=O)OC | C24H24N6O7S
